US04542127
2-Hydroxy-4-methylbenzoic acid was reacted with K2CO3 and dimethyl sulfate to give methyl 2-methoxy-4-methybenzoate (boiling point at 0.7 mm=100° C.). Hydrolysis with 2N sodium hydroxide solution provided 2-methoxy-4-methylbenzoic acid (melting point 103°-104° C.). Bromination to give the 4-bromomethyl compound (melting point 123°-125° C.) and reaction with potassium cyanide provided the 4-cyanomethyl compound (melting point 105°-107° C., from toluene), the catalytic hydrogenation of which with Ra--Ni and reaction with ethanolic hydrochloric acid provided the ethyl 4-(2-aminoethyl)-2-methoxybenzoate hydrochloride (melting point 86°-88° C.).

reactant | 2-Hydroxy-4-methylbenzoic acid | OC1=C(C(=O)O)C=CC(=C1)C | C8H8O3
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | dimethyl sulfate | S(=O)(=O)(OC)OC | C2H6O4S
product | methyl 2-methoxy-4-methybenzoate | COC1=C(C(=O)OC)C=CC(=C1)C | C10H12O3
